simulator lang=spectre
global 0

ahdl_include "./dut/charge_pump_pfd_state_machine.va"
ahdl_include "./support/ref_fb_clk.va"

// Hidden testbench for charge_pump_pfd_state_machine.
// ref_fb_clk drives ref leading fb by 20 ns (both 5 MHz squares => period=200n):
// the detector state goes positive and vctrl ramps up.

VDD (VDD 0) vsource dc=0.9 type=dc
VSS (VSS 0) vsource dc=0.0 type=dc

XREF (VDD VSS ref fb) ref_fb_clk period=200n phase_lead=20n tedge=100p
XDUT (ref fb vctrl metric) charge_pump_pfd_state_machine


tran tran stop=1.0u maxstep=1n
save ref fb vctrl metric
